US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-2-phenylacetamide (CJS 3732)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 2-phenylacetyl chloride to afford the title compound (11 mg, 15%). 1H-NMR (δ, ppm, DMSO-d6): 3.62 (s, 2H, CH2), 6.45 (d, 1H, HPy,5, J=6.0 Hz), 6.83 (d, 1H, Harom, J=8.0 Hz), 7.22-7.47 (m, 8H, Harom), 7.78 (d, 1H, HPy,6, J=6.0 Hz), 10.28 (s, 1H, NHamide), 11.15 (s, 1H, NHPy3), 11.37 (s, 1H, NHPy2). HRMS (EI): m/z [M+H] calcd for C20H17N4O3: 361.1301; found: 361.1299.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 2-phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-2-phenylacetamide | 11 mg, 15% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(CC2=CC=CC=C2)=O)N1 | C20H16N4O3
